US09034866B2
10-Bromo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide (0.1 g) was reacted with 1-ethynylcyclopentanol similar to as described in Procedure E to afford 22.4 mg of 10-[2-(1-hydroxycyclopentyl)ethynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide following reverse phase hplc purification. MS (Q1) 338 (M)+. 1H NMR (400 MHz, DMSO) δ 8.50 (d, J=2.1 Hz, 1H), 7.84-7.71 (m, 1H), 7.54 (d, J=23.6 Hz, 1H), 7.29 (dd, J=8.5, 2.1 Hz, 1H), 7.10 (s, 1H), 7.01 (d, J=8.5 Hz, 1H), 5.28 (s, 1H), 4.49 (d, J=12.6 Hz, 4H), 1.94-1.84 (m, 4H), 1.82-1.62 (m, 5H).

reactant | 10-Bromo-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 0.1 g | BrC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1 | C12H10BrN3O2
reactant | 1-ethynylcyclopentanol | C(#C)C1(CCCC1)O | C7H10O
product | 10-[2-(1-hydroxycyclopentyl)ethynyl]-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2-carboxamide | 22.4 mg | OC1(CCCC1)C#CC=1C=CC2=C(C=3N(CCO2)C=C(N3)C(=O)N)C1 | C19H19N3O3
